US07714004B2
Preparation of 5-(benzyloxy)-1-methyl-1H-indole
5-(Benzyloxy)-1H-indole (300 mg, 1.34 mmol) was dissolved in anhydrous DMF under an atmosphere of argon and cooled in a water bath. Sodium hydride (60% dispersion in mineral oil, 64.5 mg, 1.61 mmol) was added, and the mixture was stirred for 30 min. Iodomethane (247.9 mg, 1.75 mmol) was added and stirring was continued for 12 h at 40° C. The mixture was cooled to rt, 10 drops of water were added, and the reaction mixture was concentrated under reduced pressure. The residue was taken up in water and was extracted with EtOAc (2×). Purification by silica gel flash chromatography (EtOAc/hexane (v/v)=1:7) gave 254 mg (80%) of the title compound as a white crystalline solid. 1H NMR (400 MHz, CDCl3): δ 3.78 (s, 3H), 5.11 (s, 2H), 6.40 (br, 1H), 6.94 (d, 1H), 7.00 (s, 1H), 7.17 (s, 1H), 7.20-7.48 (m, 6H).

reactant | 5-(Benzyloxy)-1H-indole | 1.34 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | Sodium hydride | 1.61 mmol, 64.5 mg | [H-].[Na+]
reactant | Iodomethane | 1.75 mmol, 247.9 mg | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | water | 10 drops | O | H2O
product | 5-(benzyloxy)-1-methyl-1H-indole | 254 mg, 80% | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C | C16H15NO
